US05773388
Synthesis of 1-Chloro-4-cyclohexyl-3-ethoxymethylene-1,1-difluoro-2,4-butanedione (Compound No. 207)
A mixture of 235.9 g of 1-chloro-4-cyclohexyl-1,1-difluoro-2,4-butanedione, 266.4 g of ethyl orthoformate and 367.2 g of acetic anhydride was refluxed under heating for 12 hours. The solvent was distilled off under reduced pressure to obtain 280.3 g of the desired product (crude product), which was directly used for the next reaction. A part of the crude product was further purified for measurement of the refractive index. nD20.6 1.4787

reactant | 1-chloro-4-cyclohexyl-1,1-difluoro-2,4-butanedione | 235.9 g | ClC(C(CC(=O)C1CCCCC1)=O)(F)F | C10H13ClF2O2
reactant | ethyl orthoformate | 266.4 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 367.2 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Chloro-4-cyclohexyl-3-ethoxymethylene-1,1-difluoro-2,4-butanedione | 280.3 g | ClC(C(C(C(=O)C1CCCCC1)=COCC)=O)(F)F | C13H17ClF2O3
